US08124636B2
To 2-(4-fluoro-phenyl)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (3.9 g) in a round bottom flask was added Dess-Martin periodinane solution (47 mL of a 15% solution in DCM, CAS [87413-09-0]) and the reaction mixture was stirred for 5 hours at RT. The reaction mixture was then quenched with saturated aqueous sodium thiosulfate solution (25 mL) and stirred a further 20 minutes. The phases were separated and the aqueous was extracted with further DCM (25 mL). The combined organic phases were washed with saturated sodium bicarbonate solution and dried over sodium sulfate. Filtration of the drying agent and evaporation of the volatiles in vacuo afforded the desired 2-(4-fluoro-phenyl)-2-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester (4.13 g, MS (ES+): 294.1 (MH+)) as a brown solid which was taken into the next step without further purification.

reactant | 2-(4-fluoro-phenyl)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.9 g | C(C)(C)(C)OC(=O)N1C(CCC1)(CO)C1=CC=C(C=C1)F | C16H22FNO3
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(4-fluoro-phenyl)-2-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.13 g | C(C)(C)(C)OC(=O)N1C(CCC1)(C=O)C1=CC=C(C=C1)F | C16H20FNO3
